US08383660B2
N-[3,5-Bis(trifluoromethyl)benzyl]-2-methyl-N-[2-(1-piperidin-1-ylpropyl)-5-(trifluoromethyl)benzyl]-2H-tetrazol-5-amine
To a solution of benzotriazole (12.8 mg, 0.1075 mmoles) in ethanol (2.5 mL) was added piperidine (9.2 mg, 0.1075 mmoles) and the reaction was stirred for 10 minutes. 2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-benzaldehyde (50 mg, 0.0977 mmoles) was added to the reaction mixture and it was further stirred for 16 hours. The imine fragment was observed MH+=579.4. Parent ion for the intermediate was not found. Ethanol was evaporated and the crude product was taken to the next step. To the crude product in toluene (2 mL) was added ethyl magnesium bromide (97 □L, 0.2916 mmoles of a 3M solution in ether). The reaction mixture was heated at 50° C. for 2 hours. LC-MS indicated formation of product. The reaction mixture was diluted with ethyl acetate (2 mL). The organic layer was washed with saturated aqueous NH4Cl solution followed by 1N NaOH solution. The organic layer was concentrated and the residue was dissolved in DMSO and purified on prepHPLC (Shimadzu, 30×50 C18, Basic, 30-95%, 0.1% NaOH, 8 min gradient, 220 UV) to yield the title compound as clear oil 13.8 mg (23%). MS (ES+) Calc: 608.5, Found: 609.1 (M+1).

reactant | benzotriazole | 0.1075 mmoles, 12.8 mg | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | piperidine | 0.1075 mmoles, 9.2 mg | N1CCCCC1 | C5H11N
reactant | 2-{[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-benzaldehyde | 0.0977 mmoles, 50 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=O)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C20H14F9N5O
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | N-[3,5-Bis(trifluoromethyl)benzyl]-2-methyl-N-[2-(1-piperidin-1-ylpropyl)-5-(trifluoromethyl)benzyl]-2H-tetrazol-5-amine | 13.8 mg, 23% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(CC)N2CCCCC2)C=C(C1)C(F)(F)F)(F)F | C27H29F9N6
